US09056859B2
A mixture of 4-ethenyl-8-nitro-3,4-dihydro-1H-isochromene (630 mg, 3.07 mmol), Fe (860 mg, 15.3 mmol) and NH4Cl (1.642 g, 30.7 mmol) in EtOH/H2O (2:1, 40 mL) was stirred at reflux under N2 protection for 2 h. The mixture was filtered, and the filtrate was evaporated to give 4-ethenyl-3,4-dihydro-1H-isochromen-8-amine. 1H-NMR (400 MHz, DMSO) δ 6.88 (t, J=8.0 Hz, 1H), 6.47 (d, J=8.0 Hz, 1H), 6.34 (d, J=8.0 Hz, 1H), 5.74˜5.83 (m, 1H), 5.03˜5.17 (m, 2H), 4.46 (s, 2H), 3.78˜3.82 (m, 1H), 3.61˜3.65 (m, 1H), 3.36˜3.38 (m, 1H).

reactant | 4-ethenyl-8-nitro-3,4-dihydro-1H-isochromene | 3.07 mmol, 630 mg | C(=C)C1COCC2=C(C=CC=C12)[N+](=O)[O-] | C11H11NO3
reactant | NH4Cl | 30.7 mmol, 1.642 g | [NH4+].[Cl-]
solvent | EtOH H2O | 40 mL | CCO.O
catalyst | Fe | 15.3 mmol, 860 mg | [Fe] | Fe
product | 4-ethenyl-3,4-dihydro-1H-isochromen-8-amine | C(=C)C1COCC2=C(C=CC=C12)N | C11H13NO
